* VCO: 7 stage Ring-Osc. made of gain cells BSIM3
* P.-H. Hsieh, J. Maxey, C.-K. K. Yang, IEEE JSSC, Sept. 2009, pp. 2488 - 2495
* 150 MHz to 900 MHz with control voltage 2.5 to 0.5 V at 3.3 V supply
* BSIM 3 model data for transistors in main file pll-xspice.cir

***** ring oscillator as voltage controlled oscillator *************** 
* name: ro_vco
* aout analog out
* dout digital out 
* cont control voltage
* dd supply voltage

.subckt ro_vco aout dout cont dd
* ignition circuit (not needed)
* feedback between in and out, pulse to help start oscillation
vin inm1 outp7 dc 0
*vin inm1 outp7 dc 2.5 pulse 2.5 0 0.1n 5n 1 1 1

*vin2 inp1 outp7 dc -0.5 pulse -0.5 0 0.1n 5n 1 1 1
vin2 inp1 outm7 dc 0


vss ss 0 dc 0
ve  sub  0 dc 0
vpe well 0 dc 3.3


* gain cell
.subckt gaincell dd ss sub well co in- in+ out- out+
mn1  out- in+   ss  sub  n1  w=2u  l=0.35u  AS=3p AD=3p PS=4u PD=4u
mn2  out- out+  ss  sub  n1  w=2u  l=0.35u  AS=3p AD=3p PS=4u PD=4u
mn3  out+ out-  ss  sub  n1  w=2u  l=0.35u  AS=3p AD=3p PS=4u PD=4u
mn4  out+ in-   ss  sub  n1  w=2u  l=0.35u  AS=3p AD=3p PS=4u PD=4u
mp1  out- co    dd  well  p1  w=4u l=0.35u  AS=7p AD=7p PS=6u PD=6u
mp2  out+ co    dd  well  p1  w=4u l=0.35u  AS=7p AD=7p PS=6u PD=6u
.ends gaincell

* inverter
.subckt inv2 dd ss sub well in out
mn1  out in  ss  sub  n1  w=6u  l=0.35u  AS=12p AD=12p PS=16u PD=16u
mp1  out in  dd  well  p1  w=12u l=0.35u  AS=24p AD=24p PS=28u PD=28u
.ends inv2

* inverter
.subckt inv1 dd ss sub well in out
mn1  out in  ss  sub  n1  w=2u  l=0.35u  AS=3p AD=3p PS=4u PD=4u
mp1  out in  dd  well  p1  w=4u l=0.35u  AS=7p AD=7p PS=6u PD=6u
.ends inv1

* chain of 25 inverters + output buffer
xinv1 dd ss sub well cont inm1  inp1  outm1 outp1 gaincell 
xinv2 dd ss sub well cont outp1 outm1 outm2 outp2 gaincell 
xinv3 dd ss sub well cont outp2 outm2 outm3 outp3 gaincell
xinv4 dd ss sub well cont outp3 outm3 outm4 outp4 gaincell
xinv5 dd ss sub well cont outp4 outm4 outm5 outp5 gaincell
xinv6 dd ss sub well cont outp5 outm5 outm6 outp6 gaincell
xinv7 dd ss sub well cont outp6 outm6 outm7 outp7 gaincell
* analog out (two stage buffer)
xinv11 dd 0 sub well outm1 outm2 inv1
xinv12 dd 0 sub well outm2 aout inv2
cout  aout 0 0.2pF
*digital out
abridge1 [aout] [dout] adc_buff
.model adc_buff adc_bridge(in_low = 'vcc*0.5' in_high = 'vcc*0.5')
.ends ro_vco
******************************************************************

